US09375000B2
The mixture of 1-[5-(aminomethyl)-6-bromopyridin-2-yl]-3-[3,5-bis(trifluoromethyl)phenyl]-3-(trifluoromethyl)pyrrolidin-2-ol (90 mg), 3,3,3-trifluoropropionic acid (31 mg), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (62 mg), dichloromethane (10 ml) and a catalytic amount of 4-dimethylaminopyridine was stirred overnight at room temperature. Upon the completion of the reaction, the solvent was distilled off and the residue was purified by silica gel chromatography to obtain N-[(6-{3-[3,5-bis(trifluoromethyl)phenyl]-2-hydroxy-3-(trifluoromethyl)pyrrolidin-1-yl}-2-bromopyridin-3-yl)methyl]-3,3,3-trifluoropropanamide (70 mg).

reactant | 1-[5-(aminomethyl)-6-bromopyridin-2-yl]-3-[3,5-bis(trifluoromethyl)phenyl]-3-(trifluoromethyl)pyrrolidin-2-ol | 90 mg | NCC=1C=CC(=NC1Br)N1C(C(CC1)(C(F)(F)F)C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)O | C19H15BrF9N3O
reactant | 3,3,3-trifluoropropionic acid | 31 mg | FC(CC(=O)O)(F)F | C3H3F3O2
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 62 mg | Cl.C(C)N=C=NCCCN(C)C
catalyst | 4-dimethylaminopyridine | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | N-[(6-{3-[3,5-bis(trifluoromethyl)phenyl]-2-hydroxy-3-(trifluoromethyl)pyrrolidin-1-yl}-2-bromopyridin-3-yl)methyl]-3,3,3-trifluoropropanamide | 70 mg | FC(C=1C=C(C=C(C1)C(F)(F)F)C1(C(N(CC1)C1=CC=C(C(=N1)Br)CNC(CC(F)(F)F)=O)O)C(F)(F)F)(F)F | C22H16BrF12N3O2
